US04109088
To a mixture of 14.8 g. of 1-oxo-5-indanol, 8 g. of sodium hydroxide, and 100 ml. of water was added 50 ml. of 1-chloro-2,3-epoxypropane and after stirring vigorously the mixture for 16 hours at room temperature, 300 ml. of benzene and 100 ml. of water were added to the mixture. Then, the benzene layer fomred was recovered, washed twice each with 100 ml. of water, and then subjected to a distillation under reduced pressure to distill off benzene and then excessive 1-chloro-2,3-epoxypropane. The residue formed was mixed with 50 ml. of isopropylamine and 100 ml. of methanol and after stirring the mixture for 18 hours at room temperature, excessive isoporpylamine and methanol were distilled off under reduced pressure. Then, to the residue formed was added about 50 ml. of acetone and the mixture was allowed to stand overnight in a cold chamber to form crystals, which were recovered by filtration to provide 13.4 g. (yield 51%) of 3-isopropylamino-1-(1-oxo-5-indanyloxy)-2-propanol. By recrystallizing the product from acetone, the colorless crystals thereof melting at 100°-102° C. was obtained.

reactant | 1-oxo-5-indanol | O=C1CCC2=CC(=CC=C12)O | C9H8O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-chloro-2,3-epoxypropane | ClCC1CO1 | C3H5ClO
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | acetone | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-isopropylamino-1-(1-oxo-5-indanyloxy)-2-propanol | yield 51% | C(C)(C)NCC(COC=1C=C2CCC(C2=CC1)=O)O | C15H21NO3
